US05273893
Pseudomonas acidovorans DSM 4746 was cultivated in a mineral salt medium (Table 1 below) under a continuous addition of sodium nicotinate (0.6 g/l/h) in a fermenter at a pH of 7.0 and at a temperature of 30° C. to an optical density, at 650 nm, of 10. Then the cells were centrifuged off and resuspended in a 2 liter solution, containing 1 mol (146 g) of pyrazinecarboxylic acid-sodium salt, at pH 7.0. The optical density at 650 nm was then 20. After an incubation time of 16 hours under aerobic conditions at pH 7.0 and a temperature of 30° C., no feedstock was able to be detected by UV-spectroscopy. A part of the formed 5-hydroxypyrazinecarboxylic acid-sodium salt crystallized already under these test conditions. The precipitated product was centrifuged off together with the biomass. The formed sediment was then resuspended in 500 ml of water and again centrifuged off. The cell-free supernatants were combined and concentrated by evaporation with a rotary evaporator to 300 ml and cooled to 0° C. The formed crystals were filtered off and dried. Altogether 0.67 mol (108 g) of 5-hydroxypyrazinecarboxylic acid-sodium salt was isolated, corresponding to a yield of 67 percent, relative to the amount of pyrazinecarboxylic acid-sodium salt used.

reactant | sodium nicotinate | C(C1=CN=CC=C1)(=O)[O-].[Na+]
reactant | pyrazinecarboxylic acid sodium | 1 mol, 146 g | N1=C(C=NC=C1)C(=O)O.[Na]
product | 5-hydroxypyrazinecarboxylic acid sodium | 0.67 mol, 108 g, yield of 67 percent | OC=1N=CC(=NC1)C(=O)O.[Na] | InChI=1S/C5H4N2O3.Na/c8-4-2-6-3(1-7-4)5(9)10;/h1-2H,(H,7,8)(H,9,10);
